US08809267B2
To 1-({4-(8-chloro-2-ethoxy-quinolin-4-yloxy)-1-[3,3-dimethyl-2-(1-trifluoromethyl-cyclobutoxycarbonylamino)-butyryl]-pyrrolidine-2-carbonyl}-amino)-2-ethyl-cyclopropanecarboxylic acid (110 mg, 0.15 mmol) in DMF (3 mL, 0.05 M) was added i-Pr2EtN (90 μL, 0.38 mmol) and HATU (86 mg, 0.23 mmol) and stirred 1 h at rt. To the reaction mixture at it was added sulfamic acid cyclopropyl ester (46 mg, 0.30 mmol) and DBU (90 μL, 0.60 mmol). The reaction was stirred 17 h at it, and then added to 5% aq citric acid and extracted with ethyl acetate. The combined organic extracts were washed water, and brine, and subsequently dried over magnesium sulfate. Concentration, followed by purification by reverse phase HPLC and lyophilization gave {1-[4-(8-chloro-2-ethoxy-quinolin-4-yloxy)-2-(1-cyclopropoxysulfonylaminocarbonyl-2-ethyl-cyclopropylcarbamoyl)-pyrrolidine-1-carbonyl]-2,2-dimethyl-propyl}-carbamic acid 1-trifluoromethyl-cyclobutyl ester (20 mg, 16% yield) as a white powder. NMR (CD3OD, 500 MHz) δ 9.18 (s, 1H), 7.95 (d, 1H), 7.70 (d, 1H), 7.20 (dd, 1H), 6.48 (s, 1H), 5.4 (br s, 1H), 4.45-4.6 (m, 4H), 4.2-4.3 (m, 2H), 2.58-2.62 (m, 1H), 2.2-2.4 (m, 4H), 1.5-1.7 (m, 4H), 1.43 (t, 3H), 1.2-1.3 (m, 3H) 1.2 (dd, 2H), 1.1-0.9 (m, 13H), 0.85 (m, 2H). LCMS found 846.00 [M+H]+.

reactant | 1-({4-(8-chloro-2-ethoxy-quinolin-4-yloxy)-1-[3,3-dimethyl-2-(1-trifluoromethyl-cyclobutoxycarbonylamino)-butyryl]-pyrrolidine-2-carbonyl}-amino)-2-ethyl-cyclopropanecarboxylic acid | 0.15 mmol, 110 mg | ClC=1C=CC=C2C(=CC(=NC12)OCC)OC1CC(N(C1)C(C(C(C)(C)C)NC(=O)OC1(CCC1)C(F)(F)F)=O)C(=O)NC1(C(C1)CC)C(=O)O | C34H42ClF3N4O8
reactant | i-Pr2EtN | 0.38 mmol, 90 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.23 mmol, 86 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | sulfamic acid cyclopropyl ester | 0.30 mmol, 46 mg | C1(CC1)OS(N)(=O)=O | C3H7NO3S
reactant | DBU | 0.60 mmol, 90 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 0.05 M, 3 mL | CN(C)C=O | C3H7NO
product | {1-[4-(8-chloro-2-ethoxy-quinolin-4-yloxy)-2-(1-cyclopropoxysulfonylaminocarbonyl-2-ethyl-cyclopropylcarbamoyl)-pyrrolidine-1-carbonyl]-2,2-dimethyl-propyl}-carbamic acid 1-trifluoromethyl-cyclobutyl ester | 20 mg, 16% yield | FC(C1(CCC1)OC(NC(C(C)(C)C)C(=O)N1C(CC(C1)OC1=CC(=NC2=C(C=CC=C12)Cl)OCC)C(NC1(C(C1)CC)C(=O)NS(=O)(=O)OC1CC1)=O)=O)(F)F | C37H47ClF3N5O10S
